US05541286
(3) Preparation of methyl 5-[2-(tert-butoxycarbonylaminomethyl)phenyl]-2,4-pentadienoate.
A mixture of 3.0 g (10.5 mmol) of 1-(tert-butoxycarbonylaminomethyl)-2-bromobenzene, 4.5 ml (32.3 mmol) of triethylamine, 1.82 ml (15.7 mmol) of methyl 2,4-pentadienoate and 0.2 g (0.28 mmol) of bis (triphenylphosphine) palladium (II) chloride was sealed in a heavy-walled Pyrex, Teflon screw-capped flask and heated at 100° C. for 40 hours. After being cooled to 25° C. the reaction mixture was diluted with 150 ml of water and 50 ml of ether. The aqueous phase was extracted with ether. The combined ether extracts were washed with water and brine, dried (Na2SO4) and concentrated. The residue was chromatographed on a silica gel column that was eluted with a 5 to 10% gradient of ethyl acetate in hexane to give 1.6 g (53.3%) of colorless needles, mp 96°-97.5° C. after recrystallization from 1:3 ether:hexane.

reactant | 1-(tert-butoxycarbonylaminomethyl)-2-bromobenzene | 10.5 mmol, 3.0 g | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)Br | C12H16BrNO2
reactant | triethylamine | 32.3 mmol, 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 2,4-pentadienoate | 15.7 mmol, 1.82 ml | C(C=CC=C)(=O)OC | C6H8O2
solvent | water | 150 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
catalyst | bis (triphenylphosphine) palladium (II) chloride | 0.28 mmol, 0.2 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 5-[2-(tert-butoxycarbonylaminomethyl)phenyl]-2,4-pentadienoate | 1.6 g, 53.3% | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)C=CC=CC(=O)OC | C18H23NO4
